US06939928B1
(3) Synthesis of 3-(1,1-dimethylbutyl)-6,6-dimethylfulvene
To a solution of 3.00 g (20.0 mmol) of (1,1-dimethylbutyl)cyclopentadiene in 30 ml of methanol, 14.6 ml (198.8 mmol) of acetone and 2.5 ml (29.9 mmol) of pyrrolidine were added with ice cooling, followed by stirring at room temperature for 3 days. After the reaction solution was diluted with 100 ml of ether, 50 ml of water was added. The organic phase was separated, washed with water and a saturated saline solution, then dried over anhydrous magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a liquid. The liquid was isolated and purified by column chromatography (silica gel, developing solvent: hexane) to obtain 2.70 g (14.19 mmol) of a yellow liquid (yield: 71%). The analyzed values are given below.

reactant | (1,1-dimethylbutyl)cyclopentadiene | 20.0 mmol, 3.00 g | CC(CCC)(C)C1=CC=CC1 | C11H18
reactant | acetone | 198.8 mmol, 14.6 ml | CC(=O)C | C3H6O
reactant | pyrrolidine | 29.9 mmol, 2.5 ml | N1CCCC1 | C4H9N
solvent | methanol | 30 ml | CO | CH4O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 3-(1,1-dimethylbutyl)-6,6-dimethylfulvene | 14.19 mmol, 2.70 g, yield: 71% | CC(CCC)(C)C=1C=CC(C1)=C(C)C | C14H22
